US09278134B2
Ephedrinium Clofibrate [12]
Clofibric acid (1.073 g, 5 mmol) and ephedrine (0.826 g, 5 mmol) were molten in a hot mortar until a free-flowing clear liquid was obtained. The mixture solidified at room temperature and was grinded to obtain a yellow powder in quantitative yield. 1H-NMR (300 MHz, d6-DMSO) δ(ppm)=9.36 (br s, 2H), 7.30 (m, 5H), 7.19 (d, J=8.8 Hz, 2H), 6.82 (d, J=8.75 Hz, 2H), 5.10 (s, 1H), 3.12 (m, 1H), 2.52 (s, 3H), 1.41 (s, 6H), 0.85 (d, J=6.58 Hz), 3H). 13C-NMR (75 MHz, d6-DMSO) δ(ppm)=176.8, 155.5, 141.8, 128.5, 128.0, 126.9, 125.8, 123.4, 119.2, 80.2, 69.8, 59.5, 30.7, 25.8, 9.6. mp 131° C., T5%onset 166° C.

reactant | Clofibric acid | 5 mmol, 1.073 g | CC(C)(C(=O)O)OC=1C=CC(=CC1)Cl | C10H11ClO3
reactant | ephedrine | 5 mmol, 0.826 g | C[C@@H]([C@@H](C=1C=CC=CC1)O)NC | C10H15NO
product | Clofibrate | quantitative yield | CCOC(=O)C(C)(C)OC=1C=CC(=CC1)Cl | C12H15ClO3
